US04681944
To 20 g of 1-acetyl-4(acetylmethylidene)-1,4-dihydropyridine was added 30 ml ethanol and the mixture refluxed 4 to 8 hours. Upon removal of solvent, 15 g of 1-(4-pyridinyl)-2-propanone was obtained as a light yellow oil.

reactant | 1-acetyl-4(acetylmethylidene)-1,4-dihydropyridine | 20 g | C(C)(=O)N1C=CC(C=C1)=CC(C)=O | C10H11NO2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-(4-pyridinyl)-2-propanone | 15 g | N1=CC=C(C=C1)CC(C)=O | C8H9NO
